US08114867B2
69.i. (Z)-2-benzyloxycarbonylamino-3-(6-methoxy-[1,5]naphthyridin-4-yl)-acrylic acid methyl ester
A solution of benzyloxycarbonylamino-(dimethoxy-phosphoryl)-acetic acid methyl ester (2.07 g, 6.25 mmol) in DCM (10 mL) was cooled to 0° C. and DBU (0.95 g, 6.25 mmol) was added dropwise. The mixture was stirred at 0° C. for 15 min and then added via syringe dropwise to a suspension of 6-methoxy-[1,5]naphthyridine-4-carbaldehyde (0.94 g, 5 mmol) in DCM (15 mL) at 0° C. The mixture was stirred at 0° C. for 1 h, diluted with DCM, washed with water, dried over MgSO4 and concentrated. Chromatography on SiO2 (Hex/EA 1:1) gave the product (25:1 Z/E mixture) as a colourless foam (1.92 g, 98% yield).

reactant | benzyloxycarbonylamino-(dimethoxy-phosphoryl)-acetic acid methyl ester | 6.25 mmol, 2.07 g | COC(C(P(=O)(OC)OC)NC(=O)OCC1=CC=CC=C1)=O | C13H18NO7P
reactant | DBU | 6.25 mmol, 0.95 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 6-methoxy-[1,5]naphthyridine-4-carbaldehyde | 5 mmol, 0.94 g | COC=1N=C2C(=CC=NC2=CC1)C=O | C10H8N2O2
reactant | EA | CC(OCC)=O | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (Z)-2-benzyloxycarbonylamino-3-(6-methoxy-[1,5]naphthyridin-4-yl)-acrylic acid methyl ester | 1.92 g, 98% yield | COC(/C(=C/C1=CC=NC2=CC=C(N=C12)OC)/NC(=O)OCC1=CC=CC=C1)=O | C21H19N3O5
